US07087644B1
4-[((4-carboxybutyl){2-[(2-chlorobenzyl)oxy]phenethyl}amino)methyl]-benzoic acid (by process E)
124.8 mg (0.238 mmol) of methyl 4-{[{2-[(2-chlorobenzyl)-oxy]phenethyl}(5-methoxy-5-oxopentyl)amino]methyl}benzoate from Ex. 1 are initially charged in 0.3 ml of methanol and 0.17 ml of water and admixed with 0.2 ml of a 40% strength sodium hydroxide solution. The mixture is stirred at 60° C. for one hour and then cooled, and the methanol is distilled off under reduced pressure. The aqueous phase is adjusted to pH 4 by addition of a citric acid/aqueous sodium hydroxide solution buffer and the resulting precipitate is separated off. Tituration with boiling cyclohexane gives a finely crystalline product.

reactant | methyl 4-{[{2-[(2-chlorobenzyl)-oxy]phenethyl}(5-methoxy-5-oxopentyl)amino]methyl}benzoate | 0.238 mmol, 124.8 mg | ClC1=C(COC2=C(CCN(CCCCC(=O)OC)CC3=CC=C(C(=O)OC)C=C3)C=CC=C2)C=CC=C1 | C30H34ClNO5
reactant | water | 0.17 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 0.3 ml | CO | CH4O
product | 4-[((4-carboxybutyl){2-[(2-chlorobenzyl)oxy]phenethyl}amino)methyl]-benzoic acid | C(=O)(O)CCCCN(CCC1=C(C=CC=C1)OCC1=C(C=CC=C1)Cl)CC1=CC=C(C(=O)O)C=C1 | C28H30ClNO5
